US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-fluorobenzenesul-fonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 4-fluorobenzenesulfonylchloride (89 mg, 0.455 mmol) to give before Boc-deprotection 170 mg of a purple solid. M+1 443.1 Calcd 443.11.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 4-fluorobenzenesulfonylchloride | 0.455 mmol, 89 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-fluorobenzenesul-fonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)F)NS(=O)(=O)C | InChI=1S/C18H23FN4O4S2.ClH/c1-28(24,25)21-18-13-15(23-11-2-9-20-10-12-23)5-8-17(18)22-29(26,27)16-6-3-14(19)4-7-16;/h3-8,13,20-22H,2,9-12H2,1H3;1H
